US04778932
A 193 g (1.0 mole) quantity of p-chlorobenzenesulfonic acid, 188 g (2.0 moles) of phenol and 10 g of 12-molybdophosphoric acid (H3PMol12O40. hydrate) were refluxed with heating and stirring. An azeotropic mixture of the water formed and phenol were cooled and subjected to phase separation to reflux the phenol thus separated to the reaction system. After 6 hours of reaction, the reaction mixture was cooled and the catalyst was separated by filtration. After the mother liquor was washed with water, the phenol was distilled off under reduced pressure, giving 247 g of (4-chlorophenylsulfonyl)phenol in a yield of 92% (melting point 142° to 145° C.).

reactant | p-chlorobenzenesulfonic acid | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
reactant | phenol | 2.0 moles, 188 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | (4-chlorophenylsulfonyl)phenol | 247 g, yield of 92% | ClC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)O | C12H9ClO3S
